US05175186
from (3S,4S)-3-ethyl-4-[(S)-2-[(tetrahydro-2H-pyran-2-yl) oxy]nonadecyl]-2-oxetanone. 10.B.1) 796 mg of N-[(benzyloxy)carbonyl]-L-leucine were dissolved in 10 ml of methylene chloride the solution was cooled to 2°-3° C. and 309 mg of dicyclohexylcarbodiimide were added. After 15 minutes the white crystals were filtered off under suction and washed with methylene chloride. The filtrate was evaporated at room temperature in vacuo and the residue was dissolved in 7 ml of N,N-dimethylformamide (DMF). This solution was added to 574 mg of (3S,4S)-3-ethyl-4-[(S)-2-hydroxynonadecyl]-2-oxetanone and 22 mg of 4-dimethyl-amino-pyridine in 6 ml of DMF. The mixture was stirred for 30 minutes. The mixture was poured on to 100 ml of ice-water and extracted three times with 20 ml of diethyl ether. The combined organic phases were dried over sodium sulfate, filtered and evaporated. After chromatography on silica gel there was obtained N-[(benzyloxy)carbonyl]-L-leucine (S)-1-[[(2S,3S)-3-ethyl-4-oxo-2-oxetanyl]methyl]octadecyl ester as white crystals of m.p. 44°-47° C.

reactant | (3S,4S)-3-ethyl-4-[(S)-2-[(tetrahydro-2H-pyran-2-yl) oxy]nonadecyl]-2-oxetanone | C(C)[C@@H]1C(O[C@H]1C[C@H](CCCCCCCCCCCCCCCCC)OC1OCCCC1)=O | C29H54O4
reactant | N-[(benzyloxy)carbonyl]-L-leucine | 796 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | dicyclohexylcarbodiimide | 309 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[(benzyloxy)carbonyl]-L-leucine (S)-1-[[(2S,3S)-3-ethyl-4-oxo-2-oxetanyl]methyl]octadecyl ester | C(C)[C@H]1[C@@H](OC1=O)C[C@H](CCCCCCCCCCCCCCCCC)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O | C38H63NO6
